* C:\Users\Michael Marsh\OneDrive\Documents\LTspiceXVII\LPB1_Spice_Model\Reverse_Engineered_LPB1.asc
R1 N005 0 2.2Meg
R2 N001 N006 430k
R3 N006 0 43k
R4 N001 N003 10k
R5 N007 0 390
R6 OUT 0 100k
C1 N006 N005 0.1µF
C2 N004 N003 0.1µF
C3 NC_01 0 47µF
C4 N005 0 100pF
C5 OUT 0 100pF
C7 N001 0 0.1µF
Q1 N003 N006 N007 0 BC550B
D1 0 N002 BAT54
V3 INPUT 0 WAVEFILE=800Hz_1-2kHz_40dB_Clean
V2 N001 N002 8.9V
Rp2 OUT 0 45k
C6 N002 N001 100pF
Rp1 N004 OUT 55k
R§LOAD OUT 0 1Meg
B1 N005 0 V=V(INPUT)*4.5
B2 WAV_OUT 0 V=V(OUT)/4.5
.model D D
.lib C:\Users\Michael Marsh\OneDrive\Documents\LTspiceXVII\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\Users\Michael Marsh\OneDrive\Documents\LTspiceXVII\lib\cmp\standard.bjt
.tran 3s
* .MODEL  BC550 NPN\n\n+ LEVEL = 1\n\n+ IS    = 2.24183E-14\n\n+ NF    = 0.996496\n\n+ ISE   = 1.90217E-14\n\n+ NE    = 2\n\n+ BF    = 228.4\n\n+ IKF   = 0.211766\n\n+ VAF   = 161.939\n\n+ NR    = 0.993\n\n+ ISC   = 4.7863E-15\n\n+ NC    = 0.996 \n\n+ BR    = 12.1807\n\n+ IKR   = 0.3423\n\n+ VAR   = 123.229\n\n+ RB    = 167.033\n\n+ IRB   = 7.079458E-05\n\n+ RBM   = 1.12256\n\n+ RE    = 0.036\n\n+ RC    = 0.79\n\n+ XTB   = 1.65\n\n+ EG    = 1.1737\n\n+ XTI   = 3\n\n+ CJE   = 1.87E-11\n\n+ VJE   = 0.732\n\n+ MJE   = 0.33\n\n+ CJC   = 6.16E-12\n\n+ VJC   = 0.395\n\n+ MJC   = 0.251\n\n+ XCJC  = 0.6192\n\n+ FC    = 0.5 \n\n+ TF    = 518.15E-12\n\n+ XTF   = 10\n\n+ VTF   = 10\n\n+ ITF   = 1\n\n+ TR    = 10.000E-9
.MODEL BC550B NPN
+IS=1.8E-14
+ISE=5.0E-14
+ISC=1.72E-13
+XTI=3
+BF=400
+BR=35.5
+IKF=0.14
+IKR=0.03
+XTB=1.5
+VAF=80
+VAR=12.5
+VJE=0.58
+VJC=0.54
+RE=0.6
+RC=0.25
+RB=0.56
+CJE=13p
+CJC=4p
+XCJC=0.75
+FC=0.5
+NF=0.9955
+NR=1.005
+NE=1.46
+NC=1.27
+MJE=0.33
+MJC=0.33
+TF=0.64n
+TR=50.72n
+EG=1.11
+VCEO=50
+ICRATING=100M
+MFG=ZETEX
.wave "C:\Users\Michael Marsh\OneDrive\Documents\LTspiceXVII\LPB1_Processed_Signals\800Hz_1-2kHz_40dB_Dirty.wav" 32 44.1K V(WAV_OUT)
.backanno
.end
